US05466701
2-Chloromethyl-4-isopropyl-6-methoxysaccharin (0.5 g) was added with stirring at room temperature to a solution of 4,7-dimethoxy-5-acetyl-6-hydroxybenzofuran (0.39 g) and methyltriazabicyclodecene (0.28 g) in acetonitrile (20 mL). The mixture was stirred overnight at room temperature. Since thin layer chromatography showed unreacted 4,7-dimethoxy-5-acetyl-6-hydroxybenzofuran, more 2-chloromethyl-4-isopropyl-6-methoxysaccharin and a drop of base were added, stirring was continued for a total of 24 hours, and the reaction mixture was poured into ice-water containing hydrochloric acid. The resulting golden solid was partially purified using dichloromethane as eluant The reaction was repeated with stirring overnight at 35°-40° C. instead of room temperature. The product and the partially purified product of the first reaction were combined and purified by column chromatography on silica gel affording 2-(4,7-dimethoxy-5-acetylbenzofuran-6-yl)oxymethyl-4-isopropyl-6-methoxysaccharin (0.4 g, 24% yield).

reactant | 2-Chloromethyl-4-isopropyl-6-methoxysaccharin | 0.5 g | ClCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)C)OC | C12H14ClNO4S
reactant | 4,7-dimethoxy-5-acetyl-6-hydroxybenzofuran | 0.39 g | COC1=C(C(=C(C2=C1C=CO2)OC)O)C(C)=O | C12H12O5
reactant | methyltriazabicyclodecene | 0.28 g | CN1N=C(CCCCCCN1)C1=CCCCCCCCC1 | C18H33N3
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-(4,7-dimethoxy-5-acetylbenzofuran-6-yl)oxymethyl-4-isopropyl-6-methoxysaccharin | 0.4 g, 24% yield | COC1=C(C(=C(C2=C1C=CO2)OC)OCN2S(=O)(=O)C1=CC(=CC(=C1C2=O)C(C)C)OC)C(C)=O | C24H25NO9S
